US07427612B2
1-{3-Fluoro-4-[4-(5-methylsulfanyl-2-morpholin-4-yl-benzoyl)-piperazin-1-yl]-phenyl}-ethanone
The title compound was prepared according to the procedure described for example K step 2 from 5-Methylsulfanyl-2-morpholin-4-yl-benzoic acid and 1-(3-Fluoro-4-piperazin-1-yl-phenyl)-ethanone (8%, white solid), MS (m/e): 458.2 (M+, 100%)

reactant | 5-Methylsulfanyl-2-morpholin-4-yl-benzoic acid | CSC=1C=CC(=C(C(=O)O)C1)N1CCOCC1 | C12H15NO3S
reactant | 1-(3-Fluoro-4-piperazin-1-yl-phenyl)-ethanone | FC=1C=C(C=CC1N1CCNCC1)C(C)=O | C12H15FN2O
product | 1-{3-Fluoro-4-[4-(5-methylsulfanyl-2-morpholin-4-yl-benzoyl)-piperazin-1-yl]-phenyl}-ethanone | FC=1C=C(C=CC1N1CCN(CC1)C(C1=C(C=CC(=C1)SC)N1CCOCC1)=O)C(C)=O | C24H28FN3O3S
